US04230864
To 200 g of malic acid was added 175 cc of concentrated sulfuric acid and 1 g of 65% oleum. The mixture was heated to 100° C. for two hours, cooled to 30° C. and diluted with 300 cc of water. The reaction mixture was cooled to 25° C. and filtered to give coumalic acid.

reactant | malic acid | 200 g | C(C(O)CC(=O)O)(=O)O | C4H6O5
reactant | sulfuric acid | 175 cc | S(O)(O)(=O)=O | H2O4S
reactant | oleum | 1 g | OS(=O)(=O)O.O=S(=O)=O
solvent | water | 300 cc | O | H2O
product | coumalic acid | C1=CC(=O)OC=C1C(=O)O | C6H4O4
